US07449467B2
N-((1R,3S)-3-Isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)-3-methyltetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentanamine (51 mg, 0.13 mmol), 3-methyltetrahydro-4H-pyran-4-one (46 mg, 0.4 mmol) and triethylamine (0.037 mL, 0.27 mmol) in dry methylene chloride (5 mL) was treated with sodium triacetoxyborohydride (85 mg, 0.40 mmol) at room temperature under N2 overnight. The reaction was quenched with aqueous NaHCO3 and diluted with methylene chloride. The organic layer was separated and the aqueous layer was extracted with methylene chloride three times. The combined extracts were dried over MgSO4, filtered and evaporated under reduced pressure. The crude product (90 mg) was passed through a short silica gel pad (30:70 MeOH/EtOAc). The filtrate was concentrated and separated by chiral HPLC to give two isomers: first isomer; second isomer: MS calculated for C26H36F3N3O2: (M+H) 480; found 480.1 for both isomers.

reactant | (1R,3S)-3-isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentanamine | 0.13 mmol, 51 mg | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCC(=CC1)C1=NC=CC(=C1)C(F)(F)F | C20H26F3N3O
reactant | 3-methyltetrahydro-4H-pyran-4-one | 0.4 mmol, 46 mg | CC1COCCC1=O | C6H10O2
reactant | triethylamine | 0.27 mmol, 0.037 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.40 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-((1R,3S)-3-Isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)-3-methyltetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)C)C(=O)N1CCC(=CC1)C1=NC=CC(=C1)C(F)(F)F | C26H36F3N3O2
